US04992433
A mixture of 3.2 parts of 6-[4-(4,5-dihydro-2-oxazolyl)phenoxy]hexanenitrile and 80 parts of methanol, saturated with ammonia, was hydrogenated at normal pressure and at room temperature with 1 part of Raney-nickel catalyst. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated, yielding 3.2 parts (100%) of 6-[4-(4,5-dihydro-2-oxazolyl)phenoxy]hexanamine as a residue (int. 108).

reactant | 6-[4-(4,5-dihydro-2-oxazolyl)phenoxy]hexanenitrile | O1C(=NCC1)C1=CC=C(OCCCCCC#N)C=C1 | C15H18N2O2
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | Raney-nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | 6-[4-(4,5-dihydro-2-oxazolyl)phenoxy]hexanamine | 100% | O1C(=NCC1)C1=CC=C(OCCCCCCN)C=C1 | C15H22N2O2
